US09024027B2
A mixture of 2-(5-(N-(2-(4-methylpiperazin-1-yl)ethyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetic acid 2,2,2-trifluoroacetic acid salt (128 mg, 0.237 mmol), (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide (83 mg, 0.198 mmol), EDC (53.0 mg, 0.277 mmol) and DMAP (48.3 mg, 0.395 mmol) in DCM (4 ml) was stirred at room temperature overnight. Additional EDC (18.93 mg, 0.099 mmol) was added, and the reaction was stirred at the same temperature for further 4 hours. The mixture was diluted with DCM and washed with 1N HCl and brine. The organic phase was dried over Na2SO4, filtered and evaporated. The crude was purified by flash chromatography on silica gel (DCM/MeOH 96/4, then DCM/MeOH 92/8) affording (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(5-(N-(2-(4-methylpiperazin-1-yl)ethyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetoxy)-ethyl)pyridine 1-oxide as a white solid (29 mg, 0.035 mmol, 17.76% yield, MS/ESI+ 826.03 [MH]+, [αD]=−23.91, c=0.466, MeOH). 1H NMR (300 MHz, DMSO-d6) δ ppm 8.44 (s, 2H), 7.92-7.99 (m, 2H), 7.88 (dd, 1H), 7.19 (d, 1H), 7.09 (d, 1H), 6.97 (dd, 1H), 7.08 (t, 1H), 6.02 (dd, 1H), 4.43 (s, 2H), 3.95 (dd, 2H), 3.80-3.92 (m, 2H), 3.32-3.45 (m, 1H), 3.17-3.24 (m, 1H), 3.15 (s, 3H), 2.39 (t, 2H), 2.25-2.34 (m, 4H), 2.12-2.22 (m, 4H), 2.07 (s, 3H), 1.15-1.32 (m, 1H), 0.53-0.67 (m, 2H), 0.31-0.45 (m, 2H).

reactant | 2-(5-(N-(2-(4-methylpiperazin-1-yl)ethyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetic acid 2,2,2-trifluoroacetic acid salt | 0.237 mmol, 128 mg | FC(C(=O)O)(F)F.CN1CCN(CC1)CCN(S(=O)(=O)C)C=1C=C2C(N(C(C2=CC1)=O)CC(=O)O)=O
reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide | 0.198 mmol, 83 mg | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C18H17Cl2F2NO4
reactant | EDC | 0.277 mmol, 53.0 mg
reactant | EDC | 0.099 mmol, 18.93 mg
catalyst | DMAP | 0.395 mmol, 48.3 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
product | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(5-(N-(2-(4-methylpiperazin-1-yl)ethyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetoxy)-ethyl)pyridine 1-oxide | 17.76% yield | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C(C2=CC=C(C=C2C1=O)N(S(=O)(=O)C)CCN1CCN(CC1)C)=O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C36H39Cl2F2N5O9S
